US08044041B2
A mixture of [3-(2-morpholin-4-yl-ethylamino)-benzyl]-carbamic acid isopropyl ester (200 mg, 0.596 mmol), methanol (4 mL) and 4.89N isopropanolic hydrochloric acid (2.4 mL) was stirred at room temperature overnight. The reaction was concentrated and dried to yield (3-aminomethyl-phenyl)-(2-morpholin-4-yl-ethyl)-amine hydrochloride (212 mg) as an orange solid. m/z (M+1) 236.04.

reactant | [3-(2-morpholin-4-yl-ethylamino)-benzyl]-carbamic acid isopropyl ester | 0.596 mmol, 200 mg | C(C)(C)OC(NCC1=CC(=CC=C1)NCCN1CCOCC1)=O | C17H27N3O3
reactant | hydrochloric acid | 4.89N, 2.4 mL | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
product | (3-aminomethyl-phenyl)-(2-morpholin-4-yl-ethyl)-amine hydrochloride | 212 mg | Cl.NCC=1C=C(C=CC1)NCCN1CCOCC1 | InChI=1S/C13H21N3O.ClH/c14-11-12-2-1-3-13(10-12)15-4-5-16-6-8-17-9-7-16;/h1-3,10,15H,4-9,11,14H2;1H
